US08980877B2
(±)-(E)-3-{1′-(2-Phenyl-ethyl)-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide (150 mg, 0.30 mmol) in DCM (5 ml) was treated with 4 M HCl in dioxane (1 ml) as described in Example 30, STEP C to give (±)-(E)-3-{1′-(2-phenyl-ethyl)-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-hydroxy-acrylamide (90 mg) as a pale yellow solid (hydrochloride salt).

reactant | (±)-(E)-3-{1′-(2-Phenyl-ethyl)-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.30 mmol, 150 mg | C1(=CC=CC=C1)CCN1CC2(CCC1)OC1=C(C(N2)=O)C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C28H33N3O5
reactant | HCl | 4 M | Cl | ClH
reactant | (±)-(E)-3-{1′-benzyl-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-acrylic acid | C(C1=CC=CC=C1)N1CC2(CCC1)OC1=C(C(N2)=O)C=C(C=C1)/C=C/C(=O)O | C22H22N2O4
solvent | DCM | 5 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
product | (±)-(E)-3-{1′-(2-phenyl-ethyl)-3,4-dihydro-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-hydroxy-acrylamide | 90 mg | C1(=CC=CC=C1)CCN1CC2(CCC1)OC1=C(C(N2)=O)C=C(C=C1)/C=C/C(=O)NO | C23H25N3O4
